US05155100
A solution of ethyl N-[2-(phosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate (0.3 g, 0.69 mmol), 18 crown-6 (0.36 g, 1.38 mmol) in toluene (12 mL) is cooled to 0° and is treated with potassium bis-trimethylsilylamide (2.22 mL, 1.45 mmol). After 7 minutes the clear solution is treated with iodomethyl pivalate (0.25 mL, 1.56 mmol) and stirred for 18 hours. Ethyl acetate is added, the mixture is washed with water, dried (Na2SO4), concentrated and the residue is chromatographed on silica gel (EtOAc/hexanes, 75:25) to obtain ethyl N-{2-[di-(pivaloyloxymethyl)-phosphonomethylamino]-3-(4-biphenylyl)propionyl}-3-aminopropionate as an oil.

reactant | ethyl N-[2-(phosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate | 0.69 mmol, 0.3 g | P(=O)(O)(O)CNC(C(=O)NCCC(=O)OCC)CC1=CC=C(C=C1)C1=CC=CC=C1 | C21H27N2O6P
reactant | potassium bis-trimethylsilylamide | 1.45 mmol, 2.22 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | iodomethyl pivalate | 1.56 mmol, 0.25 mL | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl N-{2-[di-(pivaloyloxymethyl)-phosphonomethylamino]-3-(4-biphenylyl)propionyl}-3-aminopropionate | C(C(C)(C)C)(=O)OCC(P(=O)(O)O)(NC(C(=O)NCCC(=O)OCC)CC1=CC=C(C=C1)C1=CC=CC=C1)COC(C(C)(C)C)=O | C33H47N2O10P
